US06063734
0.22 g of dibenzo-18-crown-6-ether and 1.57 g of sodium cyanide were suspended in 20 ml of DMSO, and 5.00 g of 4-tert-butylbenzyl bromide was dropwise added thereto with cooling with water. After having been stirred overnight at room temperature, the resulting mixture was further stirred at 50° C. for 5 hours. After this was left to be at room temperature, water was added thereto and extracted with ether. The organic layer was washed with water, and dried over sodium sulfate, and the solvent was distilled off under reduced pressure. The residual product was purified through silica gel column chromatography to obtain 1.19 g of 4-tert-butylphenylacetonitrile was obtained from the fraction eluted with n-hexane:ethyl acetate 5:1.

reactant | sodium cyanide | 1.57 g | [C-]#N.[Na+]
reactant | 4-tert-butylbenzyl bromide | 5.00 g | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | water | O | H2O
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
catalyst | dibenzo-18-crown-6-ether | 0.22 g | C1COC2=CC=CC=C2OCCOCCOC3=CC=CC=C3OCCO1 | C20H24O6
product | 4-tert-butylphenylacetonitrile | 1.19 g | C(C)(C)(C)C1=CC=C(C=C1)CC#N | C12H15N
